US06162818
A catalytic amount of 10% palladium-on-carbon is added to a solution of 4-nitrooxindole (0.889 g, 4.99 mmol) in methanol (100 mL). The suspension is degassed three times and placed under an atmosphere of hydrogen for 3 hours. The suspension is filtered through a pad of Celite and the Celite is washed several times with methanol. The methanol from the filtrate is removed by rotary evaporation. The resulting residue is purified via silica gel column chromatography using 3% methanol/methylene chloride as the eluent. The appropriate fractions are combined and the solvents removed by rotary evaporation to yield 0.558 g of 4-aminooxindole as a light orange solid (76%).

reactant | 4-nitrooxindole | 4.99 mmol, 0.889 g | [N+](=O)([O-])C1=C2CC(NC2=CC=C1)=O | C8H6N2O3
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 4-aminooxindole | 0.558 g, 76% | NC1=C2CC(NC2=CC=C1)=O | C8H8N2O
